US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)cyclohexanecarboxamide
To a solution of (1RS,2RS)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol (450 mg, 1.71 mmol) in ethyl acetate (15 ml) were added cyclohexanecarbonyl chloride (342 ml, 2.56 mmol) and saturated aqueous sodium hydrogen carbonate (15 ml) and the mixture was stirred at room temperature for 3 hrs. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (553 mg, 87%).

reactant | (1RS,2RS)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol | 1.71 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)F | C15H15F2NO
reactant | cyclohexanecarbonyl chloride | 2.56 mmol, 342 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)cyclohexanecarboxamide | 553 mg, 87% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)F)NC(=O)C1CCCCC1)O | C22H25F2NO2
